US05300523
1-Methoxy-5,6-dihydro-7-nitromethyl-naphthalene
44.1 g of 8-methoxy-2-tetralone (0.25 mol) are stirred at 70° C. under argon for 3 h in 402 ml of nitromethane (7.50 mol) and 2.5 ml of ethylenediamine. After the mixture has cooled to room temperature, a yellow crystallisate is filtered off with suction. The nitromethane is distilled off from the solution in vacuo. The residue is dissolved in 500 ml of toluene. The solvent is again distilled off in vacuo in order to remove nitromethane residues. The residue is then dissolved in 200 ml of toluene again. An insoluble component is filtered off and the solution is concentrated to 50 ml. The concentrated solution is then chromatographed on 500 g of silica gel using toluene. After concentrating the main fraction, the final product is obtained as a yellow oil.

reactant | 8-methoxy-2-tetralone | 0.25 mol, 44.1 g | COC=1C=CC=C2CCC(CC12)=O | C11H12O2
reactant | nitromethane | 7.50 mol, 402 ml | [N+](=O)([O-])C | CH3NO2
solvent | ethylenediamine | 2.5 ml | C(CN)N | C2H8N2
product | 1-Methoxy-5,6-dihydro-7-nitromethyl-naphthalene | COC1=CC=CC=2CCC(=CC12)C[N+](=O)[O-] | C12H13NO3
